US04098790
885 mg. of methyl dihydrolysergate were dissolved in 50 ml. of methylene dichloride. 0.95 ml. of boron trifluoride etherate were added and the reaction mixture cooled to a temperature in the range 0°-5° C. A solution of 0.27 ml. sulfuryl chloride in 20 ml. of methylene dichloride was added in dropwise fashion. The reaction mixture was stirred and cooled for about 15 minutes and then quenched by pouring into an ice-dilute ammonium hydroxide mixture. D-2-chloro-6-methyl-8-carboxyergoline, methyl ester or methyl 2-chlorodihydrolysergate formed in the above reaction was isolated and purified by the procedure of Example 1. Chromatography over fluorosil using 2 percent methanol in chloroform yielded 730 mg. (74 percent yield) of crystalline material melting at 206°-8° C. with decomposition.

reactant | methyl dihydrolysergate | O(C(=O)[C@H]1CN(C)[C@@H]2CC3CNC4=CC=CC(C2=C1)=C34)C | C17H20N2O2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | methyl 2-chlorodihydrolysergate | ClC1C2C[C@H]3N(C[C@H](C(OC)=O)C=C3C=3C=CC=C(N1)C32)C | C17H19ClN2O2
